### PR TITLE
feat(Analysis): the one-sided Laplace transform

### PR DESCRIPTION
**Pull request by dennj**
Introducing Laplace transform `ℒ(f)(s) = ∫ t in Ioi 0, exp (-s * t) • f t`

It is needed in physlib

I modelled the file following Mellin transform.

## Main definitions

* `LaplaceConvergent f s`: the Laplace integral is well-defined at `s`.
* `laplace f s`: the Laplace transform, a total function
* `HasLaplace f s m`: convergence together with the value `m`.

## Main results

* Linearity: `laplace_add`/`sub`/`const_smul`/`neg`/`zero`/`div_const`, at the `laplace`, `LaplaceConvergent`, and `HasLaplace` levels.
* `laplaceConvergent_iff_norm`, `norm_laplace_le_integral_norm`: reduction of convergence and norm bounds to the real exponential weight.
* `laplaceConvergent_of_isBigO_exp`: existence for functions of exponential order, on the appropriate right half-plane.
* `LaplaceConvergent.of_re_le`/`of_re_lt`: monotonicity of convergence in `s.re`  (the half-plane structure).
* `laplace_cexp_smul`: the frequency-shift rule.
* `laplace_indicator_comp_sub`: the time-shift rule.
* `laplace_comp_mul_left`/`right`: behaviour under positive dilation.
* `hasLaplace_const`/`hasLaplace_one`/`hasLaplace_cexp`: basic transform values.

Human made PR

### CODE REVIEW

**Comment by AlyciaBHZ** [comment]
---

I came to this from the other direction — I have a small Laplace-transform development of my own
that I was about to try to upstream, found this PR, and read it instead. Yours is in better shape
than mine, so rather than open something competing I would rather help this along. Nothing below is
blocking; it is mostly notes from having recently walked the same ground.

**One related file I found useful.** `Mathlib/Probability/Moments/ComplexMGF.lean` develops the
differentiation and analyticity of `μ[cexp (z * X)]`: `hasDerivAt_complexMGF`,
`hasDerivAt_iteratedDeriv_complexMGF`, `iteratedDeriv_complexMGF`, `analyticOnNhd_complexMGF`, with
`hasDerivAt_integral_pow_mul_exp` doing the work. For an a.e.-measurable nonnegative real-valued `f`,
the scalar transform is `complexMGF id μf (-s)` where

```
μf := (volume.restrict (Ioi 0)).withDensity (fun t => ENNReal.ofReal (f t))
```

so at least the scalar nonnegative case may reduce outright — note the composition with `s ↦ -s`
puts a `(-1)^n` into the `n`-th derivative. A signed scalar `f` is not a single such `complexMGF`,
though under the relevant integrability it splits into positive and negative parts; the
vector-valued case needs a real adaptation rather than a reduction. I mention it only because I
wrote my own iterated-derivative argument before noticing that file existed.

**On the region of convergence — a question rather than a request.** You have `of_re_le` /
`of_re_lt` and `of_re_le_of_ae_nonneg`, but no named object for where the transform converges.
Mathlib has two shapes for this, and I think they reflect genuinely different geometries rather
than a disagreement: `LSeries.abscissaOfAbsConv : EReal` for a right half-plane, and
`interior (integrableExpSet X μ)` in `ComplexMGF`, where `X` can take both signs so the domain may
be a bounded interval. Your default measure on `Ioi 0` looks like the first case, but the optional
measure argument makes it less obvious. Do you have a preference? Not something this PR needs to
settle — I ask because statements about derivatives mostly want to say "on the open region of
convergence", so it would be good to know which way you are leaning before anyone writes those.

**On `LaplaceTransformDeriv`.** The docstring points derivatives, integration, holomorphy and
convolution there, and the file does not exist yet. I have real-valued versions of the half-plane
differentiability and iterated-derivative arguments in a bundled experimental development of my own
— the bundling was a mistake and would have to go, so this is proofs to adapt rather than a file
ready to hand over. If it would be useful I would be glad to help with that follow-up once this
lands, working to whatever conventions you settle on here. I would much rather contribute into your
design than end up with two Laplace APIs.

Happy to look at any part of this in more detail if that would help.

**Comment by dennj** [comment]
> I came to this from the other direction — I have a small Laplace-transform development of my own that I was about to try to upstream, found this PR, and read it instead. Yours is in better shape than mine, so rather than open something competing I would rather help this along. Nothing below is blocking; it is mostly notes from having recently walked the same ground.
> 
> **One related file I found useful.** `Mathlib/Probability/Moments/ComplexMGF.lean` develops the differentiation and analyticity of `μ[cexp (z * X)]`: `hasDerivAt_complexMGF`, `hasDerivAt_iteratedDeriv_complexMGF`, `iteratedDeriv_complexMGF`, `analyticOnNhd_complexMGF`, with `hasDerivAt_integral_pow_mul_exp` doing the work. For an a.e.-measurable nonnegative real-valued `f`, the scalar transform is `complexMGF id μf (-s)` where
> 
> ```
> μf := (volume.restrict (Ioi 0)).withDensity (fun t => ENNReal.ofReal (f t))
> ```
> 
> so at least the scalar nonnegative case may reduce outright — note the composition with `s ↦ -s` puts a `(-1)^n` into the `n`-th derivative. A signed scalar `f` is not a single such `complexMGF`, though under the relevant integrability it splits into positive and negative parts; the vector-valued case needs a real adaptation rather than a reduction. I mention it only because I wrote my own iterated-derivative argument before noticing that file existed.
> 
> **On the region of convergence — a question rather than a request.** You have `of_re_le` / `of_re_lt` and `of_re_le_of_ae_nonneg`, but no named object for where the transform converges. Mathlib has two shapes for this, and I think they reflect genuinely different geometries rather than a disagreement: `LSeries.abscissaOfAbsConv : EReal` for a right half-plane, and `interior (integrableExpSet X μ)` in `ComplexMGF`, where `X` can take both signs so the domain may be a bounded interval. Your default measure on `Ioi 0` looks like the first case, but the optional measure argument makes it less obvious. Do you have a preference? Not something this PR needs to settle — I ask because statements about derivatives mostly want to say "on the open region of convergence", so it would be good to know which way you are leaning before anyone writes those.
> 
> **On `LaplaceTransformDeriv`.** The docstring points derivatives, integration, holomorphy and convolution there, and the file does not exist yet. I have real-valued versions of the half-plane differentiability and iterated-derivative arguments in a bundled experimental development of my own — the bundling was a mistake and would have to go, so this is proofs to adapt rather than a file ready to hand over. If it would be useful I would be glad to help with that follow-up once this lands, working to whatever conventions you settle on here. I would much rather contribute into your design than end up with two Laplace APIs.
> 
> Happy to look at any part of this in more detail if that would help.




Thanks, I hadn’t noticed the ComplexMGF development, and I’ll use it when working on the derivative follow-up.

For the convergence region, I prefer a real laplaceConvergenceSet. I’ve added it, proved it convex for arbitrary measures and upward-closed for nonnegative support. This supports the domain `{s | s.re ∈ interior (laplaceConvergenceSet f μ)}`, while an abscissa can be derived later for the standard one-sided case.
Maybe it could be too much as single PR; I can remove the commit in case.

I also removed the premature reference to LaplaceTransformDeriv. I’d be very glad to collaborate with you on that follow-up.

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean [hunk 1]
```diff
@@ -848,6 +848,19 @@ theorem _root_.aestronglyMeasurable_const_smul_iff₀ {c : G₀} (hc : c ≠ 0)
     AEStronglyMeasurable (fun x => c • f x) μ ↔ AEStronglyMeasurable f μ :=
   (IsUnit.mk0 _ hc).aestronglyMeasurable_const_smul_iff
 
+/-- Multiplying by an almost-everywhere nonzero scalar *function* preserves a.e. strong
+measurability. This is the varying-scalar analogue of `aestronglyMeasurable_const_smul_iff₀`.
+
+Note there is no `Integrable` analogue: an a.e. nonzero function may be unbounded and so does not
+preserve integrability. -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean]: This last sentence is superfluous I think.
```suggestion
/-- Multiplying by an almost-everywhere nonzero scalar *function* preserves a.e. strong
measurability. This is the varying-scalar analogue of `aestronglyMeasurable_const_smul_iff₀`. -/
```

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean:1]: Can you please add a version for groups and monoids as well? Also please reuse the variables `G`, `M` and `G₀` instead of introducing new ones.

**Comment by AlyciaBHZ** [comment]
Hi — I'd keep it. The derivative follow-up will depend on it: almost every statement there wants to say "on the region of convergence", so that needs a name. And the PR has reviewers now, so I don't think size is the blocker it was a few weeks ago.

On the numbers I mentioned — those are measured on my own development, which is real-valued and bundled, so they don't carry over to your API directly. I'd want to test properly before promising a migration cost.

Agreed on the abscissa. Deriving it later as a corollary for the one-sided case sounds right.

If it helps, once this lands I could start with just the `hasDerivAt` / `differentiableOn` core, following whatever naming you settle on.

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean
Comment (dennj) [reply Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean:1]: I stated the monoid version with the left inverse as a separate function `d` rather than for `c : α → Mˣ`. There's no precedent for units-valued functions in `MeasureTheory`, so I went with `d`, but the `Mˣ` version is a three-line corollary if you'd prefer it as the primary form.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean:1]: I think you should rather assume `∀ᵐ x ∂μ, IsUnit (c x)`? Also please keep them in the `MulAction` section and reuse the typeclass assumptions available there when possible.

Comment (dennj) [reply Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean:1]: On IsUnit, I don't think it's enough for a varying scalar. The forward direction needs
`x ↦ (c x)⁻¹` to be a.e. strongly measurable, which is free for a constant `c` but not here; And on a bare Monoid there's no total inverse function to state it with (`Ring.inverse` needs `MonoidWithZero`), nor any class making inversion continuous on units outside `NormedRing`.

What should I do:
1. keep the left inverse as data
2. state it for `c : α → Mˣ`, assuming `AEStronglyMeasurable` of both `↑(c ·)` and `↑(c ·)⁻¹`
3. assume `IsUnit` but require `MonoidWithZero M` and `ContinuousOn Ring.inverse`, which is
   close to collapsing into the `G₀` case.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean:1]: I think you can just remove the monoid case, then sorry for this.

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean [hunk 2]
```diff
@@ -848,6 +848,38 @@ theorem _root_.aestronglyMeasurable_const_smul_iff₀ {c : G₀} (hc : c ≠ 0)
...
+`IsUnit.aestronglyMeasurable_const_smul_iff`. -/
+theorem _root_.aestronglyMeasurable_smul_iff_of_mul_eq_one [TopologicalSpace M]
+    [ContinuousSMul M β] {c d : α → M} (hc : AEStronglyMeasurable c μ)
+    (hd : AEStronglyMeasurable d μ) (hdc : ∀ᵐ x ∂μ, d x * c x = 1) :
+    AEStronglyMeasurable (fun x => c x • f x) μ ↔ AEStronglyMeasurable f μ := by
+  refine ⟨fun h => (hd.fun_smul h).congr ?_, fun h => hc.fun_smul h⟩
+  filter_upwards [hdc] with x hx
+  rw [smul_smul, hx, one_smul]
+
+omit [ContinuousConstSMul G β] in
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean]: Instead of omitting I think it's nicer to just remove it from the local variables and add it into the constant version of the statements. Same thing below. Can you also put the varying versions next to the constant ones please?

Comment (dennj) [reply Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean]: Done.
ContinuousConstSMul is now on the constant statements, so the `omit`s are gone, and the varying versions sit next to their constant counterparts.

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean [hunk 3]
```diff
@@ -831,23 +831,45 @@ theorem smul_measure {R : Type*} [SMul R ℝ≥0∞] [IsScalarTower R ℝ≥0∞
...
-nonrec theorem _root_.IsUnit.aestronglyMeasurable_const_smul_iff {c : M} (hc : IsUnit c) :
+/-- Multiplying by an a.e. strongly measurable scalar *function* with values in a group preserves
+a.e. strong measurability. This is the varying-scalar analogue of
+`aestronglyMeasurable_const_smul_iff`. -/
+theorem _root_.aestronglyMeasurable_smul_iff [TopologicalSpace G] [ContinuousInv G]
+    [ContinuousSMul G β] {c : α → G} (hc : AEStronglyMeasurable c μ) :
+    AEStronglyMeasurable (fun x => c x • f x) μ ↔ AEStronglyMeasurable f μ := by
+  refine ⟨fun h => (hc.fun_inv.fun_smul h).congr ?_, fun h => hc.fun_smul h⟩
+  filter_upwards with x
+  rw [smul_smul, inv_mul_cancel, one_smul]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean]:
```suggestion
    AEStronglyMeasurable (fun x => c x • f x) μ ↔ AEStronglyMeasurable f μ :=
  ⟨fun h => (hc.fun_inv.fun_smul h).congr (by simp), fun h => hc.fun_smul h⟩
```

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean [hunk 4]
```diff
@@ -831,23 +831,45 @@ theorem smul_measure {R : Type*} [SMul R ℝ≥0∞] [IsScalarTower R ℝ≥0∞
...
 
+/-- Multiplying by an almost-everywhere nonzero scalar *function* preserves a.e. strong
+measurability. This is the varying-scalar analogue of `aestronglyMeasurable_const_smul_iff₀`. -/
+theorem _root_.aestronglyMeasurable_smul_iff₀ [TopologicalSpace G₀] [ContinuousInv₀ G₀]
+    [MetrizableSpace G₀] [ContinuousSMul G₀ β] {c : α → G₀}
+    (hc : AEStronglyMeasurable c μ) (hc0 : ∀ᵐ x ∂μ, c x ≠ 0) :
+    AEStronglyMeasurable (fun x => c x • f x) μ ↔ AEStronglyMeasurable f μ := by
+  refine ⟨fun h => (hc.fun_inv₀.fun_smul h).congr ?_, fun h => hc.fun_smul h⟩
+  filter_upwards [hc0] with x hx
+  rw [smul_smul, inv_mul_cancel₀ hx, one_smul]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean]:
```suggestion
  simp [hx]
```

**Comment by EtienneC30** [comment]
Please don't force-push, it makes it harder to see what you changed in the github interface.

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/AEStronglyMeasurable.lean:1]: splice-bot
maintainer merge

**Comment by dennj** [comment]
> Please don't force-push, it makes it harder to see what you changed in the github interface.

I usually do force when I pull rebase from mainline. Should I use merge instead?

**Comment by EtienneC30** [comment]
Yes please. When you force-push I can't use the github feature showing only the changes since the last review.

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 5]
```diff
@@ -53,6 +53,15 @@ theorem map_mul_left_eq_self (μ : Measure G) [IsMulLeftInvariant μ] (g : G) :
 theorem map_mul_right_eq_self (μ : Measure G) [IsMulRightInvariant μ] (g : G) : map (· * g) μ = μ :=
   IsMulRightInvariant.map_mul_right_eq_self g
 
+/-- Translating a right-invariant measure restricted to a set `s` by `· * g` amounts to restricting
+to the preimage `(· * g) ⁻¹' s`. -/
+@[to_additive /-- Translating a right-invariant measure restricted to a set `s` by `· + g` amounts
+to restricting to the preimage `(· + g) ⁻¹' s`. -/]
+theorem map_mul_right_restrict [MeasurableMul G] (μ : Measure G) [IsMulRightInvariant μ] (g : G)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Group/Measure.lean]: I am not sure this is very useful because it is a direct combination of two lemmas. Could you use them directly instead? Unrelated but to me the docstring sounds like the statement is `map (· * g) (μ.restrict s) = μ.restrict ((· * g) ⁻¹' s)`, which is not true.

File: Mathlib/MeasureTheory/Integral/ExpDecay.lean [hunk 6]
```diff
@@ -44,3 +46,20 @@ theorem integrable_of_isBigO_exp_neg {f : ℝ → ℝ} {a b : ℝ} (h0 : 0 < b)
...
     (hf.locallyIntegrableOn measurableSet_Ici).integrableOn_of_isBigO_atTop
     ho ⟨Ioi b, Ioi_mem_atTop b, exp_neg_integrableOn_Ioi b h0⟩
+
+/-- Exponential decay beats exponential growth: if `f` is locally integrable on `[c, ∞)` and
+`f x = O(exp (a * x))` at `∞`, then `exp (-b * x) * ‖f x‖` is integrable on `(c, ∞)`
+for every `a < b`. -/
+theorem integrableOn_exp_neg_mul_norm_of_isBigO_exp {E : Type*} [NormedAddCommGroup E]
+    {a b c : ℝ} {f : ℝ → E} (hfc : LocallyIntegrableOn f (Ici c))
+    (hf : f =O[atTop] fun x : ℝ => exp (a * x)) (hab : a < b) :
+    IntegrableOn (fun x : ℝ => exp (-b * x) * ‖f x‖) (Ioi c) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/ExpDecay.lean]: I think the conclusion should rather be integrability of `exp (-b * x) • (f x)`, and then maybe you can specialize it to a real-valued function.

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 5 above)
Comment (dennj) [reply Mathlib/MeasureTheory/Group/Measure.lean]: I removed it so we are no longer touching measure.lean

File: Mathlib/MeasureTheory/Integral/ExpDecay.lean (hunk 6 above)
Comment (dennj) [reply Mathlib/MeasureTheory/Integral/ExpDecay.lean]: done

File: Mathlib/MeasureTheory/Integral/ExpDecay.lean [hunk 7]
```diff
@@ -44,3 +47,34 @@ theorem integrable_of_isBigO_exp_neg {f : ℝ → ℝ} {a b : ℝ} (h0 : 0 < b)
...
+/-- If `f` is locally integrable on `[c, ∞)` and `f x = O(exp (a * x))` at `∞`, then
+`exp (-b * x) • f x` is integrable on `(c, ∞)` for every `a < b`. -/
+theorem integrableOn_exp_neg_smul_of_isBigO_exp {E : Type*} [NormedAddCommGroup E]
+    [NormedSpace ℝ E] {a b c : ℝ} {f : ℝ → E} (hfc : LocallyIntegrableOn f (Ici c))
+    (hf : f =O[atTop] fun x : ℝ => exp (a * x)) (hab : a < b) :
+    IntegrableOn (fun x : ℝ => exp (-b * x) • f x) (Ioi c) := by
+  refine integrableOn_Ici_iff_integrableOn_Ioi (by finiteness) |>.mp ?_
+  have hloc : LocallyIntegrableOn (fun x : ℝ => exp (-b * x) • f x) (Ici c) :=
+    hfc.continuousOn_smul isClosed_Ici.isLocallyClosed
+      ((by fun_prop : Continuous fun x : ℝ => exp (-b * x)).continuousOn)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/ExpDecay.lean]:
```suggestion
    hfc.continuousOn_smul isClosed_Ici.isLocallyClosed (by fun_prop)
```

File: Mathlib/MeasureTheory/Integral/ExpDecay.lean [hunk 8]
```diff
@@ -44,3 +47,34 @@ theorem integrable_of_isBigO_exp_neg {f : ℝ → ℝ} {a b : ℝ} (h0 : 0 < b)
...
+  refine hloc.integrableOn_of_isBigO_atTop (g := fun x : ℝ => exp ((a - b) * x))
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/ExpDecay.lean]:
```suggestion
  exact hloc.integrableOn_of_isBigO_atTop (g := fun x : ℝ => exp ((a - b) * x))
```

File: Mathlib/MeasureTheory/Integral/ExpDecay.lean [hunk 9]
```diff
@@ -44,3 +47,34 @@ theorem integrable_of_isBigO_exp_neg {f : ℝ → ℝ} {a b : ℝ} (h0 : 0 < b)
...
+    (((isBigO_refl _ atTop).smul hf).congr_right fun x => by
+      simp only [smul_eq_mul, ← exp_add]; ring_nf)
+    ⟨Ioi c, Ioi_mem_atTop c, by
+      simpa [neg_sub] using exp_neg_integrableOn_Ioi c (sub_pos.mpr hab)⟩
+
+/-- Real-valued specialization of `integrableOn_exp_neg_smul_of_isBigO_exp`. -/
+theorem integrableOn_exp_neg_mul_of_isBigO_exp {a b c : ℝ} {f : ℝ → ℝ}
+    (hfc : LocallyIntegrableOn f (Ici c)) (hf : f =O[atTop] fun x : ℝ => exp (a * x))
+    (hab : a < b) : IntegrableOn (fun x : ℝ => exp (-b * x) * f x) (Ioi c) := by
+  simpa [smul_eq_mul] using integrableOn_exp_neg_smul_of_isBigO_exp hfc hf hab
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/ExpDecay.lean]:
```suggestion
  simpa using integrableOn_exp_neg_smul_of_isBigO_exp hfc hf hab
```

File: Mathlib/MeasureTheory/Integral/ExpDecay.lean [hunk 10]
```diff
@@ -44,3 +47,34 @@ theorem integrable_of_isBigO_exp_neg {f : ℝ → ℝ} {a b : ℝ} (h0 : 0 < b)
...
+
+/-- Exponential decay dominates exponential growth: if `f` is locally integrable on `[c, ∞)` and
+`f x = O(exp (a * x))` at `∞`, then `exp (-b * x) * ‖f x‖` is integrable on `(c, ∞)`
+for every `a < b`. -/
+theorem integrableOn_exp_neg_mul_norm_of_isBigO_exp {E : Type*} [NormedAddCommGroup E]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/ExpDecay.lean]: This directly follows from the real case thanks to [Asymptotics.IsBigO.norm_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Asymptotics/Defs.html#Asymptotics.IsBigO.norm_left), no need to add it.

Comment (dennj) [reply Mathlib/MeasureTheory/Integral/ExpDecay.lean]: done

File: Mathlib/MeasureTheory/Integral/ExpDecay.lean
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/ExpDecay.lean:1]: splice-bot maintainer merge

Comment (dennj) [reply Mathlib/MeasureTheory/Integral/ExpDecay.lean:1]: I fixed the theorem form the comment in #42531 with a new commit here.
